US04658061
9-Carbamoyl-9-(3-cyclopropylaminopropyl)fluorene
A solution of 4.6 g. of 9-carbamoyl-9-(2-cyanoethyl)fluorene in 200 ml. of ethanol containing 2.3 g. of 5% palladium on carbon and 10.0 g. of cyclopropylamine was stirred under hydrogen at 60 psi at 90° C. for sixteen hours. The reaction mixture was cooled to 25° C., filtered and concentrated to a volume of 20 ml. The oil was dissolved in 200 ml. of 50% ethyl acetate-diethyl ether and the solution was extracted with 6N hydrochloric acid. The acid layer was cooled and made alkaline by addition of 10% aqueous sodium hydroxide. The alkaline solution was extracted several times with fresh diethyl ether-ethyl acetate. The organic extracts were combined, washed with water, dried and the solvent was removed by evaporation to give 3.7 g. of the title comound as an oil. The oil was diluted by addition of 1.4 g. of maleic acid and the mixture was further diluted by addition of 50 ml. of ethyl acetate. The precipitated crystals were collected by filtration and dried to afford 1.5 g. of 9-carbamoyl-9-(3-cyclopropylaminopropyl)fluorene maleate. m.p. 163°-165° C.

reactant | 9-carbamoyl-9-(2-cyanoethyl)fluorene | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCC#N | C17H14N2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | 9-carbamoyl-9-(3-cyclopropylaminopropyl)fluorene maleate | C(\C=C/C(=O)O)(=O)O.C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCNC1CC1
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2.3 g | C(C)O | C2H6O
product | 9-Carbamoyl-9-(3-cyclopropylaminopropyl)fluorene | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCNC1CC1 | C20H22N2O
